US06350892B1
4-[2-(Dodecylthio)ethoxy]benzoic Acid
A solution of 4-[2-(dodecylthio)ethoxy]benzoic acid methyl ester (11.29 g, 29.7 mmol) in 80% aqueous ethanol (100 ml) was treated with a solution of potassium, hydroxide, (6.0 g, 0.107 mol) in water (15 ml) and the resulting mixture was heated at 80° C. for 2 h. The solvent was then concentrated in vacuo and the residue was treated with 150 ml of 1N aqueous hydrochloric acid. The aqueous phase was extracted three times with dichloromethane and the combined organic extracts were washed with brine, dried (magnesium sulfate) and evaporated. The residue was recrystallized from dichloromethane to give 10.24 g (94%) of the title material as white needles: mp 97-98° C.

reactant | 4-[2-(dodecylthio)ethoxy]benzoic acid methyl ester | 29.7 mmol, 11.29 g | COC(C1=CC=C(C=C1)OCCSCCCCCCCCCCCC)=O | C22H36O3S
reactant | potassium | [K] | K
reactant | hydroxide | 0.107 mol, 6.0 g | [OH-]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 4-[2-(Dodecylthio)ethoxy]benzoic Acid | 10.24 g, 94% | C(CCCCCCCCCCC)SCCOC1=CC=C(C(=O)O)C=C1 | C21H34O3S
